US07049438B2
Using analogous procedures to those described in Note [33] immediately above, 1-(tert-butoxycarbonyl)-L-proline was reacted with piperidine to give (2S)-1-(tert-butoxycarbonyl)-2-piperidinocarbonylpyrrolidine which was deprotected and reacted with 2-bromoethanol. There was thus obtained the required starting material; NMR Spectrum: (CDCl3) 1.5–1.9 (m, 10H), 1.9–2.0 (m, 1H), 2.1–2.2 (m, 1H), 2.4–2.5 (m, 1H), 2.55–2.65 (m, 1H), 2.8–2.9 (m, 1H), 3.3–3.7 (m, 6H), 4.3 (br s, 1H); Mass Spectrum: M+H+ 227.

reactant | 1-(tert-butoxycarbonyl)-L-proline | C(C)(C)(C)OC(=O)N1[C@H](C(=O)O)CCC1 | C10H17NO4
reactant | piperidine | N1CCCCC1 | C5H11N
product | (2S)-1-(tert-butoxycarbonyl)-2-piperidinocarbonylpyrrolidine | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)C(=O)N1CCCCC1 | C15H26N2O3
